US06268532B1
In a 250 mL of round-bottom flask resting in an ice-bath were placed 23.35 g (0.05 mol) of this 1,3-di(2-bromotetrafluoroethoxy)benzene and 100 mL of chloroform. Then 116 g of chlorosulfonic acid was added dropwise into the solution. After the initial evolution of hydrogen chloride had subsided, the mixture was brought to room temperature. The reaction mixture was stirred at room temperature for 1 hour, then heated at 35° C. for another day. The contents of the flask were poured into a 1 L beaker filled with crushed ice. The chloroform layer was separated and washed with ice cold water to neutral. The organic layer was dried over sodium sulfate. After the removal of the solid materials by filtration, the chloroform was evaporated off completely. The crude product was purified by distillation under the reduced pressure to collect the fraction boiling at 127-129° C./10−2 torr. A total of 25.1 g (0.0443 mol) of 2,4-bis(2-bromotetrafluoroethoxy)benzenesulfonyl chloride was obtained in 88.7% yield. The quantity of hydrogen by-product was below 3%.

reactant | 1,3-di(2-bromotetrafluoroethoxy)benzene | 0.05 mol, 23.35 g | BrC(C(OC1=CC(=CC=C1)OC(C(Br)(F)F)(F)F)(F)F)(F)F | C10H4Br2F8O2
reactant | chlorosulfonic acid | 116 g | ClS(=O)(=O)O | ClHO3S
reactant | hydrogen chloride | Cl | ClH
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 2,4-bis(2-bromotetrafluoroethoxy)benzenesulfonyl chloride | 0.0443 mol, 25.1 g, 88.7% yield | BrC(C(OC1=C(C=CC(=C1)OC(C(Br)(F)F)(F)F)S(=O)(=O)Cl)(F)F)(F)F | C10H3Br2ClF8O4S
